resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.99814
C2 0 n2 7.52e-06
R3 0 n4 1.017868
R4 n1 n3 1.015595
R5 n1 n5 1.016443
R6 n2 n3 1.011489
R7 n2 n6 0.983346
R8 n3 n7 0.998113
R9 n4 n5 1.001011
R10 n4 n6 0.990447
R11 n5 n7 1.001614
R12 n6 n7 1.005203
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
